Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3][O:4][H:5]>>[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-1.87885754711
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:4]([H:5])#[C:6][O:7][H:8].[H:1][O:2][C:3],1.6521758724899998
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.07128465892
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2],3.32197861
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-8.52888626045
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.07318105686
[C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.10160739579
[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9],5.88901333432
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.10083912821
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10],0.921788742009
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.743331114
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],8.335730170669999
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.91840815636
[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.55307889104
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][O:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10],0.8234999496400001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.11857096854
[O:1]=[C:2][C@@:6]([C:3][O:4][H:5])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([O:4][H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.10802551379
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.78797710966
[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],6.27268507173
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],2.59618944393
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.30557898179
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.54286551237
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4][C:5]#[C:6].[O:7]=[C:8]([H:9])[H:10],0.437924336489
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],1.59420900204
[C:2]([H:3])=[O:8].[O:1]([C:4][C:5]#[C:6][H:7])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-4.04850803658
[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.5085423552
[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8],-3.00498657255
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],3.79131772255
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[O:7][C:8][H:9],1.05329456965
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:9]([H:10])([H:11])[H:12].[O:7][H:8],5.992856121799999
